US09340510B2
1-((S)-1-{4-[6-(2,2-Difluoro-cyclopropylmethoxy)-3,4-dihydro-1H-isoquinolin-2-ylmethyl]-phenyl}-ethyl)-3-ethyl-urea
4.09 mg (10.0 μmol) (S)-1-{4-[6-(2,2-Difluoro-cyclopropylmethoxy)-3,4-dihydro-1H-isoquinolin-2-ylmethyl]-phenyl}-ethylamine hydrochloride (example XXXIII.1) and 5.62 μL (40.0 μmol) TEA in 250 μL THF are stirred at r.t. Then 3.91 μL (50.0 μmol) ethyl isocyanate are added and the resulting mixture is stirred at r.t. over night. The reaction is quenched by the addition of 25 μL aq. K2CO3 solution (c=3 mol/L), filtered over basic aluminum oxide and concentrated by evaporation.

reactant | (S)-1-{4-[6-(2,2-Difluoro-cyclopropylmethoxy)-3,4-dihydro-1H-isoquinolin-2-ylmethyl]-phenyl}-ethylamine hydrochloride | 10.0 μmol, 4.09 mg | Cl.FC1(C(C1)COC=1C=C2CCN(CC2=CC1)CC1=CC=C(C=C1)[C@H](C)N)F
reactant | ethyl isocyanate | 50.0 μmol, 3.91 μL | C(C)N=C=O | C3H5NO
solvent | THF | 250 μL | C1CCOC1 | C4H8O
product | 1-((S)-1-{4-[6-(2,2-Difluoro-cyclopropylmethoxy)-3,4-dihydro-1H-isoquinolin-2-ylmethyl]-phenyl}-ethyl)-3-ethyl-urea | FC1(C(C1)COC=1C=C2CCN(CC2=CC1)CC1=CC=C(C=C1)[C@H](C)NC(=O)NCC)F | C25H31F2N3O2
